US08802659B2
(R,Z)-N-(1-(6-((trans)-4-tert-butylcyclohexyloxy)quinolin-2-yl)ethylidene)-2-methylpropane-2-sulfinamide
To the solution of 1-[6-(4-tert-Butyl-cyclohexyloxy)-quinolin-2-yl]-ethanone (0.2227 g, 0.0006843 mol) and (s)-(−)-2-Methyl-2-propanesulfinamide (0.0829 g, 0.000684 mol) in Methylene chloride (1.4 mL, 0.021 mol) was added Ti(OEt)4 (0.488 mL, 0.00171 mol). The reaction was stirred at room temperature for id. The mixture was then cooled to 0° C., added equal volume brine, filtrate through celite, and extracted with EtOAc. After died over Na2SO4, the residue was chromatographed 0-50% EA/HE gave product (132 mg, 45%). LCMS 2.39 min m/z 429.30 ([M+1], 100%).

reactant | 1-[6-(4-tert-Butyl-cyclohexyloxy)-quinolin-2-yl]-ethanone | 0.0006843 mol, 0.2227 g | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=NC2=CC1)C(C)=O | C21H27NO2
reactant | (s)-(−)-2-Methyl-2-propanesulfinamide | 0.000684 mol, 0.0829 g | CC(C)(C)[S@](=O)N | C4H11NOS
reactant | Methylene chloride | 0.021 mol, 1.4 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | (R,Z)-N-(1-(6-((trans)-4-tert-butylcyclohexyloxy)quinolin-2-yl)ethylidene)-2-methylpropane-2-sulfinamide | 132 mg, 45% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=NC2=CC1)\C(\C)=N/[S@](=O)C(C)(C)C | C25H36N2O2S
